US08431553B2
Methylprednisolone
BRAND_NAMES Ancortone, Colisone, Cortancyl, Dacortin, Decortancyl, Decortin, Delcortin, Deltacortone, Deltasone, Deltison, Di-Adreson, Encorton, Meticorten, Nurison, Orasone, Paracort, Prednilonga, Pronison, Rectodelt, Sone, Ultracorten CHEMICAL_NAME 17,21-dihydroxypregna-1,4-diene-3,11,20,trione CHEMICAL_FORMULA C21H26O5 CAS_NUMBER 53-03-2 Formulation

reactant | Ancortone | C[C@]12CC(=O)[C@H]3[C@H]([C@@H]1CC[C@@]2(C(=O)CO)O)CCC4=CC(=O)C=C[C@]34C | C21H26O5
reactant | Cortancyl | CC(=O)OCC(=O)[C@]1(CC[C@@H]2[C@@]1(CC(=O)[C@H]3[C@H]2CCC4=CC(=O)C=C[C@]34C)C)O | C23H28O6
product | Methylprednisolone | C[C@H]1C[C@H]2[C@@H]3CC[C@@]([C@]3(C[C@@H]([C@@H]2[C@@]4(C1=CC(=O)C=C4)C)O)C)(C(=O)CO)O | C22H30O5
